US08389500B2
Step 2. Preparation of N-(2,4′-dichloro-3′-fluorobiphenyl-4-yl)methanesulfonamide
N-(4-bromo-3-chlorophenyl)methanesulfonamide (B, 100.0 mg, 0.351 mmol), 4-chloro-3-fluorophenylboronic acid (73.4 mg, 0.421 mmol, L2 equiv.) and Pd(PPh3)4 (20.3 mg, 0.0176 mmol, 0.05 equiv.) was placed in a 50 mL round bottomed flask under a nitrogen atmosphere. To the flask were added 2M-Na1CO3 (1.0 mL, 2.0 mmol, 5.7 equiv.) and DME (4 mL) subsequently at ambient temperature. The mixture was heated under reflux conditions for 1 hours. The mixture was filtered through Celite (3 g) and the Celite was washed with EtOAc (70 mL). The solvent was removed under a reduced pressure. Obtained crude mixture was purified by column chromatography (SiO2=80 g, EtOAc/hexane=1:3˜1:1, Rf=0.4) to give the desired product as colorless crystals (compound 5 (designated PT-017).

reactant | N-(4-bromo-3-chlorophenyl)methanesulfonamide | 0.351 mmol, 100.0 mg | BrC1=C(C=C(C=C1)NS(=O)(=O)C)Cl | C7H7BrClNO2S
reactant | 4-chloro-3-fluorophenylboronic acid | 0.421 mmol, 73.4 mg | ClC1=C(C=C(C=C1)B(O)O)F | C6H5BClFO2
catalyst | Pd(PPh3)4 | 0.0176 mmol, 20.3 mg, 0.05 equiv. | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | DME | 4 mL | COCCOC | C4H10O2
product | N-(2,4′-dichloro-3′-fluorobiphenyl-4-yl)methanesulfonamide | ClC1=C(C=CC(=C1)NS(=O)(=O)C)C1=CC(=C(C=C1)Cl)F | C13H10Cl2FNO2S
